US04997836
A solution of 3,4,5-trimethoxybenzoyl chloride (10.9 g) in dichloromethane (100 ml) is added dropwise taking one hour, under ice-cooling while stirring, to a mixture of methyl piperazine-2-carboxylate dihydrochloride (10.24 g), triethylamine (18.7 g) and dichloromethane (200 ml). The reaction mixture is poured into ice-water, followed by extraction with dichloromethane. The organic layer is washed with water, dried and the solvent is distilled off under reduced pressure. Crystals obtained from the residue are recrystallized from ethyl acetate and hexane to afford methyl 4-(3,4,5-trimethoxybenzoyl)piperazine-2-carboxylate (9.6 g) as colorless needles, m.p. 113-114° C.

reactant | 3,4,5-trimethoxybenzoyl chloride | 10.9 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | methyl piperazine-2-carboxylate dihydrochloride | 10.24 g | Cl.Cl.N1C(CNCC1)C(=O)OC
reactant | triethylamine | 18.7 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | methyl 4-(3,4,5-trimethoxybenzoyl)piperazine-2-carboxylate | 9.6 g | COC=1C=C(C(=O)N2CC(NCC2)C(=O)OC)C=C(C1OC)OC | C16H22N2O6
